US05212187
N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]thiourea
0.48 g (1.3 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine and 0.27 g (1.3 mmol) of dicyclohexylcarbodiimide are dissolved at -10° C. in absolute ether with 0.5 ml of carbon disulfide, the temperature is increased in the course of 3 hours to 20° C. and the batch is stirred for a further 12 hours. The solid that precipitates is filtered off and the filtrate is concentrated in vacuo. 0.30 g (1.3 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine dissolved in a small amount of absolute ethanol is added to the concentrated residue and the reaction batch is heated under reflux for 2 hours. It is then concentrated in vacuo and the residue is purified by rotation chromatography to yield the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=644 ([M+H]+, 1), 121 (100). For further analysis, a portion of the compound is converted into the tartaric acid salt and recrystallised from acetonitrile/isopropanol/petroleum ether; m.p.: 78° C. (acetonitrile/isopropanol/petroleum ether).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine | 1.3 mmol, 0.48 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCCCN)C)C=C1 | C22H34N4O
reactant | dicyclohexylcarbodiimide | 1.3 mmol, 0.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 1.3 mmol, 0.30 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | carbon disulfide | 0.5 ml | C(=S)=S | CS2
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]thiourea | N(C(=N)N)C=1SC=C(N1)CSCCNC(=S)NCCCCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)OC | C30H45N9OS3
